US08754226B2
4-Bromo-5-fluoro-2-methylaniline (5 g, 24.5 mmol) was dissolved in 1,2-dimethyldisulfane (35 mL, 394 mmol) and heated to 75° C. under nitrogen. Isoamyl nitrite (8.52 mL, 63.7 mmol) was added dropwise to the reaction via an addition funnel through a reflux condenser (˜1 drop/sec). (NOTE—a large exotherm may occur if addition is too fast.) After addition was complete, the reaction was heated to 95° C. for 1 hour and allowed to cool to ambient temperature. The reaction was concentrated and purified over silica gel (100% hexanes) to afford (4-bromo-5-fluoro-2-methylphenyl)(methyl)sulfane (4.9 g, 20.8 mmol, 85.0% yield) as an orange solid.

reactant | 4-Bromo-5-fluoro-2-methylaniline | 24.5 mmol, 5 g | BrC1=CC(=C(N)C=C1F)C | C7H7BrFN
reactant | 1,2-dimethyldisulfane | 394 mmol, 35 mL | CSSC | C2H6S2
reactant | Isoamyl nitrite | 63.7 mmol, 8.52 mL | N(=O)OCCC(C)C | C5H11NO2
product | (4-bromo-5-fluoro-2-methylphenyl)(methyl)sulfane | 20.8 mmol, 4.9 g, 85.0% yield | BrC1=CC(=C(C=C1F)SC)C | C8H8BrFS
